US06967197B2
To a solution of 2-aminoethanethiol (37.5 g) and sodium hydroxide (15 g) in methanol (500 ml) was added a solution of ethyl 3-(5-bromo-2-thienylacrylate (97.7 g) in methanol (500 ml) under ice-cooling and a nitrogen atmosphere. After being stirred at room temperature for 3 days, the resulting precipitate was collected by filtration and washed with methanol (MeOH) to afford 7-(5-bromo-2-thienyl)perhydro-1,4-thiazepin-5-one (84.6 g) as a solid.

reactant | 2-aminoethanethiol | 37.5 g | NCCS | C2H7NS
reactant | sodium hydroxide | 15 g | [OH-].[Na+]
reactant | 5-bromo-2-thienylacrylate | 97.7 g | BrC1=CC=C(S1)C(C(=O)[O-])=C
reactant | methanol | 500 ml | CO | CH4O
reactant | methanol | 500 ml | CO | CH4O
product | 7-(5-bromo-2-thienyl)perhydro-1,4-thiazepin-5-one | 84.6 g | BrC1=CC=C(S1)C1CC(NCCS1)=O | C9H10BrNOS2
